US07727988B2
5-cyclopropyl-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E11)
A mixture of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (Prep4, 35 mg, prepared following a similar procedure to that reported in WO 2005080382), 1-(3-chloropropyl)-5-cyclopropyl-2,4(1H,3H)-pyrimidinedione (Prep16, 46 mg) and TEA (0.042 mL) in DMF (0.5 mL) was heated at 100° C. for 24 hours. Water was then added and the solution was extracted with dichloromethane. The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by preparative HPLC (column: XTerra Prep MS C18 30×150 mm, 10 uM; mobile phase A: H2O+0.1% formic acid, mobile phase B: acetonitrile+0.1% formic acid, gradient: from 1 to 25% (B) in 10 min, from 25 to 90% in 4.50 min, from 90 to 100% in 0.50 min; flow rate: 40 mL/min; UV wavelength range: 210-400 nm, ionization: ES+ and ES−; mass range: 150-900 amu (ES+)). The product thus obtained was loaded over a SCX cartridge and eluted with methanol to give 54 mg of the formiate of the title compound. To a solution of this material in dichloromethane (1 mL) HCl (1M in Et20, 1 eq) was added, the solvent was evaporated in vacuo and the material thus obtained triturated with Et2O to give 41 mg of the title compound as a white slightly hygroscopic solid.

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 1-(3-chloropropyl)-5-cyclopropyl-2,4(1H,3H)-pyrimidinedione | 46 mg | ClCCCN1C(NC(C(=C1)C1CC1)=O)=O | C10H13ClN2O2
reactant | Water | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-cyclopropyl-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | Cl.C1(CC1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C22H24F3N3O2.ClH/c23-22(24,25)16-6-4-15(5-7-16)21-10-17(21)11-27(13-21)8-1-9-28-12-18(14-2-3-14)19(29)26-20(28)30;/h4-7,12,14,17H,1-3,8-11,13H2,(H,26,29,30);1H/t17-,21+;/m0./s1
